US07893056B2
Methyl 1-[methyl(N-{[(phenylmethyl)oxy]carbonyl}glycyl)amino]cyclopropanecarboxylate (3.66 g, 11.42 mmol) was dissolved in 50 mL of MeOH, degassed and placed under argon. 10% Pd/C (2.04 g) was added, and the contents were thoroughly degassed and placed under a hydrogen balloon for 2 h. The contents were then degassed, and the Pd/C was removed by filtration through Celite, washing with MeOH. The filtrate was concentrated in vacuo. The residue was dissolved in MeOH (100 mL) and heated to 60° C. with stirring for 4 h. The solvent was removed in vacuo to provide pure 4-methyl-4,7-diazaspiro[2.5]octane-5,8-dione (1.76 g, 99%). LCMS: (M+H)+: 155.1.

reactant | Methyl 1-[methyl(N-{[(phenylmethyl)oxy]carbonyl}glycyl)amino]cyclopropanecarboxylate | 11.42 mmol, 3.66 g | CN(C1(CC1)C(=O)OC)C(CNC(=O)OCC1=CC=CC=C1)=O | C16H20N2O5
solvent | MeOH | 50 mL | CO | CH4O
product | 4-methyl-4,7-diazaspiro[2.5]octane-5,8-dione | 1.76 g, 99% | CN1C2(CC2)C(NCC1=O)=O | C7H10N2O2
